US07884101B2
Step 1.41a: General Procedure of Mitsunobu. Preparation of 4-{2-[2-(2-Methyl-2H-pyrazol-3-yl)-4-nitro-phenoxy]-ethyl}-morpholine
A mixture of triphenylphosphine (7.5 g, 1.8 eq), and diisopropylazodicarboxylate (5.66 mL, 1.8 eq) in 50 mL THF was stirred at 0° C. for 10 minutes, then 2-(2-methyl-2H-pyrazol-3-yl)-4-nitro-phenol (3.5 g, 15.9 mmole), and 2-morpholinyl-ethanol (3.66 mL, 1.8 eq) was added into the mixture at 0° C. Reaction mixture was stirred at room temp for another 1 hour. The mixture was purified by HPLC to give title compound as a yellow gummy solid (9.436 g, 89%). Exact mass calculated for C16H20N4O5 332.2. found 333.3 (MH+).

reactant | triphenylphosphine | 7.5 g, 1.8 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 5.66 mL, 1.8 eq | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 2-(2-methyl-2H-pyrazol-3-yl)-4-nitro-phenol | 15.9 mmole, 3.5 g | CN1N=CC=C1C1=C(C=CC(=C1)[N+](=O)[O-])O | C10H9N3O3
reactant | 2-morpholinyl-ethanol | 3.66 mL, 1.8 eq | N1(CCOCC1)CCO | C6H13NO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-{2-[2-(2-Methyl-2H-pyrazol-3-yl)-4-nitro-phenoxy]-ethyl}-morpholine | 9.436 g, 89% | CN1N=CC=C1C1=C(OCCN2CCOCC2)C=CC(=C1)[N+](=O)[O-] | C16H20N4O4
